US07368608B2
To a reaction vessel were added crude (R)-1-(4-chloro-2-acetoxyphenoxy)-3-phthalimido-2-propanol 364 mg (0.90 mmol), triethylamine 137 mg (1.36 mmol) and ethyl acetate 2 mL. To this mixture was slowly dropped methanesulfonyl chloride 134 mg (1.18 mmol) in an ice bath and then the mixture was stirred at room temperature for 3 hours. After washing with an aqueous 5% HCl solution and water successively, the organic layer was taken and the solvent was evaporated to give crude (R)-1-(4-chloro-2-acetoxyphenoxy)-2-methanesulfonyloxy-3-phthalimidopropane 213 mg (yield 98%, chemical purity 97%) as a brown solid.

reactant | (R)-1-(4-chloro-2-acetoxyphenoxy)-3-phthalimido-2-propanol | 0.90 mmol, 364 mg | ClC1=CC(=C(OC[C@@H](CN2C(C=3C(C2=O)=CC=CC3)=O)O)C=C1)OC(C)=O | C19H16ClNO6
reactant | triethylamine | 1.36 mmol, 137 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.18 mmol, 134 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | (R)-1-(4-chloro-2-acetoxyphenoxy)-2-methanesulfonyloxy-3-phthalimidopropane | 213 mg, yield 98% | ClC1=CC(=C(OC[C@@H](CN2C(C=3C(C2=O)=CC=CC3)=O)OS(=O)(=O)C)C=C1)OC(C)=O | C20H18ClNO8S
